US06987114B1
2) 1-(2,3-Epoxypropyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
1-Allyl-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione 157 mg, 0.52 mmol) was dissolved in dichloromethane (10 ml), and thereto chloro perbenzoic acid (385 mg, 1.56 mmol) was added. The resulting solution was refluxed for 24 hours, washed with a saturated solution of sodium bicarbonate, distilled under the reduced pressure to remove the used solvent and purified with column chromatography to obtain the titled compound as white solid (57 mg, yield: 35.0%).

reactant | 1-Allyl-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 0.52 mmol, 157 mg | C(C=C)N1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)CC)=O)=O | C17H20N2O3
reactant | chloro perbenzoic acid | 1.56 mmol, 385 mg | ClC1=CC=CC=C1C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(2,3-Epoxypropyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 57 mg, yield: 35.0% | O1C(CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)CC)=O)=O)C1 | C17H20N2O4
